US07635700B2
A solution of 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-methyl-benzamide (1.00 g, 3.8 mmol), CDI (0.62 g, 3.8 mmol) and DMAP (0.10 g, 0.82 mmol) in acetonitrile (12 mL) was heated at 150° C. in a microwave oven for 10 minutes. The suspension was filtered and washed with acetonitrile (2×20 mL), water (2×20 mL), HCl (1N, 25 mL), water (25 mL), methanol (2×20 mL), and ethyl acetate (2×20 mL) to give 3-(2-hydroxy-5-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione as an off-white solid (0.89 g, 81% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 25/75 CH3CN/0.1% H3PO4, 5.72 min (99%); mp: 373-375° C.; 1H NMR (DMSO-d6) δ 1.90-1.97 (m, 1H, CHH), 2.49-2.58 (m, 2H, CH2), 2.61 (s, 1.5H, CH3), 2.69 (s, 1.5H, CH3), 2.81-2.92 (m, 1H, CHH), 5.55 (dd, J=5, 11 Hz, 0.5H, NCH), 5.72 (dd, J=5, 11 Hz, 0.5H, NCH), 6.99-7.08 (m, 2H, Ar), 7.50-7.55 (m, 1H, Ar), 10.92 (s, 0.5H, Oh), 11.42 (s, 0.5H, NH), 11.56 (s, 0.5H, NH) (observed at 350K); 13C NMR (DMSO-d6) δ 20.90, 21.38, 22.11, 22.41, 30.72, 30.77, 49.74, 50.99, 111.52, 112.15, 113.38, 125.67, 134.26, 134.34, 140.29, 140.63, 141.09, 141.45, 148.77, 149.99, 161.60, 162.39, 170.00, 170.38, 172.74; LCMS: MH=288; Anal. Calcd. for C14H13N3O4: C, 58.53; H, 4.56; N, 14.63. Found: C, 58.40; H, 4.32; N, 14.59.

reactant | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-methyl-benzamide | 3.8 mmol, 1.00 g | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C(=CC=C1)C | C13H15N3O3
reactant | CDI | 3.8 mmol, 0.62 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
catalyst | DMAP | 0.82 mmol, 0.10 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | 3-(2-hydroxy-5-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 0.89 g, 81% yield | OC1=NC2=CC=CC(=C2C(N1C1C(NC(CC1)=O)=O)=O)C | C14H13N3O4
